US07858621B2
N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-[2-(2-methoxy-ethylamino)-6-trifluoromethyl-pyridin-3-yl]-acrylamide
A mixture of 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide (30 mg, 0.28 mmol) and 2-methoxyethylamine (100 μl) was stirred at ambient temperature for 48 hrs. The reaction mixture was diluted with water and then acidified with 2N HCl solution. The aqueous phase was extracted with EtOAc and the combined organic phase was washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (Hex/EtOAc=2/3) to give the title compound (4.0 mg, 12%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 0.28 mmol, 30 mg | ClC1=NC(=CC=C1C=CC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C)C(F)(F)F | C19H14ClF4N3O3S
reactant | 2-methoxyethylamine | 100 μl | COCCN | C3H9NO
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
product | N-(3-Ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-3-[2-(2-methoxy-ethylamino)-6-trifluoromethyl-pyridin-3-yl]-acrylamide | 4.0 mg, 12% | C(#C)C=1C=C(CNC(C=CC=2C(=NC(=CC2)C(F)(F)F)NCCOC)=O)C=C(C1NS(=O)(=O)C)F | C22H22F4N4O4S
